US04302464
A. 1-(2-chloro-4-pyridyl)ethanone
To a stirred solution of 34.6 g. (0.25 mole) of 2-chloroisonicotinonitrile in 500 ml. of dry ether under a nitrogen atmosphere was added dropwise over 15 minutes 166 ml. of 3.0 M (0.5 mole) solution of methyl magnesium bromide. After stirring at room temperature for 24 hours the precipitate was filtered and added immediately to a mixture of 600 g. of ice and 300 ml. of water to which had been added 150 ml. of 6 N hydrochloric acid. The aqueous phase was extracted (4×100 ml.) with ether and the combined ether extracts dried and concentrated to an oil. The residual oil was extracted with warm petroleum ether (4×50 ml.) and the extracts combined and cooled in a dry ice/acetone bath. The resulting precipitate was filtered and dried to give 21.3 g. (55%) of the desired intermediate, m.p. 36°-38° C.

reactant | 2-chloroisonicotinonitrile | 0.25 mole | ClC=1C=C(C#N)C=CN1 | C6H3ClN2
reactant | methyl magnesium bromide | C[Mg]Br
reactant | ether | CCOCC | C4H10O
product | 1-(2-chloro-4-pyridyl)ethanone | ClC1=NC=CC(=C1)C(C)=O | C7H6ClNO
